US04623647
Preparation of 1-(chloromethyl)-9,10-diethoxy-1,6,7,11b-tetrahydro-2H,4H-[1,3]oxazino[4,3-a]-isoquinoline hydrochloride
0.01 mole (3.08 g) of 1-(hydroxymethyl)-9,10-diethoxy-1,6,7,11b-tetrahydro-2H,4H-[1,3]oxazino[4,3-a]-isoquinoline is dissolved in 50 ml of absolute benzene. To the solution 0.05 mole (6 g) of sulfinyl dichloride is added dropwise, under ice cooling and stirring. Thereafter the reaction mixture is slightly refluxed for 3 hours. The excess of the solvent and sulfinyl dichloride is distilled off in vacuo. The residual brown oil is triturated with a small amount of ether to yield the desired compound in crystalline form in a yield of 37%.

reactant | 1-(hydroxymethyl)-9,10-diethoxy-1,6,7,11b-tetrahydro-2H,4H-[1,3]oxazino[4,3-a]-isoquinoline | 0.01 mole, 3.08 g | OCC1COCN2C1C1=CC(=C(C=C1CC2)OCC)OCC | C17H25NO4
reactant | sulfinyl dichloride | 0.05 mole, 6 g | S(=O)(Cl)Cl | Cl2OS
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
product | 1-(chloromethyl)-9,10-diethoxy-1,6,7,11b-tetrahydro-2H,4H-[1,3]oxazino[4,3-a]-isoquinoline hydrochloride | yield of 37% | Cl.ClCC1COCN2C1C1=CC(=C(C=C1CC2)OCC)OCC | InChI=1S/C17H24ClNO3.ClH/c1-3-21-15-7-12-5-6-19-11-20-10-13(9-18)17(19)14(12)8-16(15)22-4-2;/h7-8,13,17H,3-6,9-11H2,1-2H3;1H
